US07235572B2
In analogy to the procedure described in example 21 b], 3-bromo-1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-1H-indole (example 21 a]) was treated with tert-butyllithium and propyl iodide to yield 1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-3-propyl-1H-indole as red liquid.

reactant | 3-bromo-1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-1H-indole | BrC1=CN(C2=CC(=CC=C12)O[Si](C)(C)C(C)(C)C)[Si](C)(C)C(C)(C)C | C20H34BrNOSi2
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | propyl iodide | C(CC)I | C3H7I
product | 1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-3-propyl-1H-indole | C(C)(C)(C)[Si](N1C=C(C2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)CCC)(C)C | C23H41NOSi2
